US07465815B2
Ethyl (2,3,5-trimethylphenoxy)acetate
Using 2,3,5-trimethylphenol and ethylbromoacetate, the title compound was synthesized in the same manner as in Reference Example 153. Yield: quantitative. Oily matter.

reactant | 2,3,5-trimethylphenol | CC1=C(C=C(C=C1C)C)O | C9H12O
reactant | ethylbromoacetate | C(C)OC(CBr)=O | C4H7BrO2
product | Ethyl (2,3,5-trimethylphenoxy)acetate | Yield: quantitative | CC1=C(OCC(=O)OCC)C=C(C=C1C)C | C13H18O3
